US09101141B2
1. Preparation of N-(5-benzyl-1,3,4-oxadiazol-2-yl)-2-chloro-4-(methylsulfonyl)-3-[(2,2,2-trifluoroethoxy)methyl]benzamide (Ex. No. 6-198)
90 mg (0.26 mmol) of 2-chloro-4-(methylsulfonyl)-3-[(2,2,2-trifluoroethoxy)methyl]benzoic acid and 45 mg (0.26 mmol) of 5-benzyl-1,3,4-oxadiazol-2-amine are dissolved at room temperature (RT) in 8 ml of CH2Cl2. Then 248 mg (0.398 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) are added, the mixture is stirred at RT for one hour and then 0.181 ml (1.3 mmol) of triethylamine, 6 mg (0.052 mmol) of 4-dimethylaminopyridine are added. Then the mixture is stirred at RT for 20 h and washed twice with 4 ml each time of water, dried over Na2SO4 and concentrated. The residue is purified by column chromatography (prep. HPLC; acetonitrile/water). Yield 70 mg (45%).

reactant | 2-chloro-4-(methylsulfonyl)-3-[(2,2,2-trifluoroethoxy)methyl]benzoic acid | 0.26 mmol, 90 mg | ClC1=C(C(=O)O)C=CC(=C1COCC(F)(F)F)S(=O)(=O)C | C11H10ClF3O5S
reactant | 5-benzyl-1,3,4-oxadiazol-2-amine | 0.26 mmol, 45 mg | C(C1=CC=CC=C1)C1=NN=C(O1)N | C9H9N3O
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 0.398 mmol, 248 mg | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | triethylamine | 1.3 mmol, 0.181 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.052 mmol, 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(5-benzyl-1,3,4-oxadiazol-2-yl)-2-chloro-4-(methylsulfonyl)-3-[(2,2,2-trifluoroethoxy)methyl]benzamide | C(C1=CC=CC=C1)C1=NN=C(O1)NC(C1=C(C(=C(C=C1)S(=O)(=O)C)COCC(F)(F)F)Cl)=O | C20H17ClF3N3O5S
